US07964607B2
1-isopropyl-6-[(3S,4S)-4-methyl-1-(1,5-naphthyridin-4-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 1-cyclopentyl-6-[(3,4-trans)-4-methyl-1-(pyridin-3-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting 1-isopropyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one and 1,5-naphthyridine-4-carbaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 9.09-9.08 (m, 1H), 8.95-8.87 (m, 1H), 8.44-8.39 (m, 1H), 8.00 (s, 1H), 7.73-7.70 (m, 1H), 7.67-7.64 (m, 1H), 5.00-4.96 (m, 1H), 4.56-4.53 (m, 1H), 4.33-4.29 (m, 1H), 3.34 (t, J=8.3 Hz, 1H), 3.19 (d, J=9.5 Hz, 1H), 2.91-2.82 (m, 2H), 2.47-2.43 (m, 1H), 2.12 (t, J=8.3 Hz, 1H), 1.48 (dd, J=9.9. 6.6 Hz, 6H), 1.18 (d, J=7.1 Hz, 3H). MS: (M+H m/z=404.2).

reactant | 1-isopropyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | C(C)(C)N1N=CC2=C1N=C(NC2=O)[C@@H]2CNC[C@H]2C | C13H19N5O
reactant | 1,5-naphthyridine-4-carbaldehyde | N1=CC=C(C2=NC=CC=C12)C=O | C9H6N2O
product | 1-isopropyl-6-[(3S,4S)-4-methyl-1-(1,5-naphthyridin-4-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C(C)(C)N1N=CC2=C1N=C(NC2=O)[C@@H]2CN(C[C@H]2C)CC2=CC=NC1=CC=CN=C21 | C22H25N7O
